US05576322
5-Chloro-2-methoxy-1-(3,4-methylenedioxybenzyl)-benzimidazole.
448 mg of a mixture comprising 5-chloro-2-sulfonylmethyl-1-(3,4-methylenedioxybenzyl)benzimidazole and 6-chloro-2-sulfonylmethyl-1-(3,4-methylenedioxybenzyl)benzimidazole was dissolved in 20 ml of methanol, followed by the addition of 10 ml of 28% sodium methoxide. The obtained mixture was heated under reflux for 1.5 hours, cooled with ice, neutralized with 104 aqueous hydrochlic acid, and extracted with ethyl acetate. The ethyl acetate layer was dried and concentrated in a vacuum. The residue was subjected to silica gel column chromatography to give the title compound.

reactant | 5-chloro-2-sulfonylmethyl-1-(3,4-methylenedioxybenzyl)benzimidazole | ClC1=CC2=C(N(C(=N2)C=S(=O)=O)CC2=CC3=C(C=C2)OCO3)C=C1 | C16H11ClN2O4S
reactant | 6-chloro-2-sulfonylmethyl-1-(3,4-methylenedioxybenzyl)benzimidazole | ClC=1C=CC2=C(N(C(=N2)C=S(=O)=O)CC2=CC3=C(C=C2)OCO3)C1 | C16H11ClN2O4S
reactant | sodium methoxide | 10 ml | C[O-].[Na+]
solvent | methanol | 20 ml | CO | CH4O
product | 5-Chloro-2-methoxy-1-(3,4-methylenedioxybenzyl)-benzimidazole | ClC1=CC2=C(N(C(=N2)OC)CC2=CC3=C(C=C2)OCO3)C=C1 | C16H13ClN2O3
